US09056883B2
Method of Synthesizing 2-[4-(3,6-Diphenyl-9H-carbazol-9-yl)phenyl]-3-phenylquinoxaline (abbreviation: Cz1PQ-III)
First, into a 200-mL three-neck flask were placed 2.2 g (6.0 mmol) of 2-(4-bromophenyl)-3-phenylquinoxaline, 1.9 g (6.0 mmol) of 3,6-diphenyl-9H-carbazole, and 1.1 g (12.0 mmol) of sodium tert-butoxide. The air in the flask was replaced with nitrogen, and 60 mL of xylene was placed into this flask. The mixture was degassed by stirring under reduced pressure. To this mixture were added 0.2 mL of tri(tert-butyl)phosphine and 71 mg (0.12 mmol) of bis(benzylideneacetone)palladium(0). This mixture was stirred under a nitrogen stream at 140° C. for 6 hours. After the predetermined time had elapsed, water was added to the obtained mixture, and the mixture was separated into an organic layer and an aqueous layer. Organic substances were extracted with toluene from the aqueous layer. The solution of the obtained extract was combined with the organic layer, and the mixture was washed with saturated brine and dried with magnesium sulfate. The obtained mixture was gravity filtered, and the filtrate was concentrated to give an oily substance. This oily substance was purified by silica gel column chromatography (with a developing solvent of toluene), followed by recrystallization from toluene, whereby 3.0 g of a yellow powder of Cz1PQ-III, which is the substance to be produced, was obtained in 81% yield.

reactant | 2-(4-bromophenyl)-3-phenylquinoxaline | 6.0 mmol, 2.2 g | BrC1=CC=C(C=C1)C1=NC2=CC=CC=C2N=C1C1=CC=CC=C1 | C20H13BrN2
reactant | 3,6-diphenyl-9H-carbazole | 6.0 mmol, 1.9 g | C1(=CC=CC=C1)C=1C=CC=2NC3=CC=C(C=C3C2C1)C1=CC=CC=C1 | C24H17N
reactant | sodium tert-butoxide | 12.0 mmol, 1.1 g | CC(C)([O-])C.[Na+]
reactant | tri(tert-butyl)phosphine | 0.2 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | water | O | H2O
solvent | xylene | 60 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[4-(3,6-Diphenyl-9H-carbazol-9-yl)phenyl]-3-phenylquinoxaline | 81% yield | C1(=CC=CC=C1)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=NC2=CC=CC=C2N=C1C1=CC=CC=C1 | C44H29N3
